US07074809B2
3-[5-(1-Quinolin-2-ylmethyl-piperidin-2-yl)-[1,2,4]oxadiazol-3-yl]-benzonitrile
3-(5-Piperidin-2-yl-[1,2,4]oxadiazol-3-yl)-benzonitrile (50.8 mg, 0.2 mmol) was mixed with 2-(chloromethyl)quinoline monohydrochloride (47.1 mg, 0.22 mmol) and diisopropylethylamine (129.3 mg, 1.0 mmol) in DMF (2 mL) at 80° C. for 20 h. The reaction mixture was poured into water and extracted with dichloromethane. The organic layer was washed with water and brine, dried with sodium sulfate, purified by column chromatography with 5˜10% ethyl acetate in hexanes to give a colorless sticky oil. This sticky oil was mixed with 1 M HCl in ether (0.4 mL) and triturated with ethyl acetate to give an off-white solid, 45 mg (48%). 1H NMR (CDCl3+DMSO-d6), δ(ppm): 8.92 (d, 1H), 8.70 (d, 1H), 8.16 (m, 3H), 8.07 (d, 1H), 8.00 (t, 1H), 7.84 (m, 2H), 7.63 (m, 1H), 4.64 (m, 3H), 3.30 (m, 1H), 2.86(m, 1H), 2.04–2.38 (m, 2H), 1.57–1.90 (m, 4H).

reactant | 3-(5-Piperidin-2-yl-[1,2,4]oxadiazol-3-yl)-benzonitrile | 0.2 mmol, 50.8 mg | N1C(CCCC1)C1=NC(=NO1)C=1C=C(C#N)C=CC1 | C14H14N4O
reactant | 2-(chloromethyl)quinoline monohydrochloride | 0.22 mmol, 47.1 mg | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | diisopropylethylamine | 1.0 mmol, 129.3 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HCl | 1 M | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ether | 0.4 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-[5-(1-Quinolin-2-ylmethyl-piperidin-2-yl)-[1,2,4]oxadiazol-3-yl]-benzonitrile | N1=C(C=CC2=CC=CC=C12)CN1C(CCCC1)C1=NC(=NO1)C=1C=C(C#N)C=CC1 | C24H21N5O
